US07951954B2
a) [3-({tert-Butoxycarbonyl-[2-(2-hydroxy-phenyl)-ethyl]-amino}-methyl)-phenyl]-acetic acid methyl ester
A mixture of 2-hydroxyphenethylamine hydrobromide salt (480 mg) and (3-formylphenyl)acetic acid methyl ester prepared as described in Example 1 (step a, 370 mg) in dichloromethane (10 mL) and 1-methyl-2-pyrrolidone (2 mL) was stirred for 30 minutes and then treated with sodium triacetoxyborohydride (1.02 g) The mixture was stirred for 18 hours and at the end of this time partitioned between ethyl acetate and saturated aqueous sodium bicarbonate, the organic layer was separated, dried and the solvent removed under reduced pressure. The residue was dissolved in dichloromethane (20 mL) and treated with di-tert-butyl-dicarbonate (480 mg). The solution was stirred for 5 hours, at the end of this time the solvent was removed under reduced pressure. The residue was purified on silica eluting with 20% ethyl acetate in isohexane to yield the sub-titled compound (560 mg).

reactant | 2-hydroxyphenethylamine hydrobromide salt | 480 mg | Br.OC1=C(CCN)C=CC=C1
reactant | (3-formylphenyl)acetic acid methyl ester | COC(CC1=CC(=CC=C1)C=O)=O | C10H10O3
reactant | 1-methyl-2-pyrrolidone | 2 mL | CN1C(CCC1)=O | C5H9NO
reactant | sodium triacetoxyborohydride | 1.02 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | [3-({tert-Butoxycarbonyl-[2-(2-hydroxy-phenyl)-ethyl]-amino}-methyl)-phenyl]-acetic acid methyl ester | 560 mg | COC(CC1=CC(=CC=C1)CN(CCC1=C(C=CC=C1)O)C(=O)OC(C)(C)C)=O | C23H29NO5
